* C:\Users\shikh\Downloads\switching_only.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 N002 SINE(0 1 5000000)
S1 N002 N001 N001 N002 SW
Vctrl N002 0 PULSE(0 5 0 1n 1n 2u 10u)
R1 N001 N002 1k
.model SW SW(Ron=1 Roff=1Meg Vt=2 Vh=0.5)
.tran 0 10u
.backanno
.end
