* source DIFFERETIALAMP
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
V_V1         VCC 0 12Vdc
V_V2         VEE 0 -12Vdc
R_R1         N00654 N00646  1k TC=0,0 
R_R2         N00665 N00650  1k TC=0,0 
R_R3         N00646 N00685  5K TC=0,0 
R_R4         0 N00650  5K TC=0,0 
R_R5         0 N00685  5K TC=0,0 
V_Vb         N00665 0  AC 1
+SIN 0 2 100 0 0 0
V_Va         N00654 0  AC 1
+SIN 90 2 100 0 0 0
X_U1         N00650 N00646 VCC VEE N00685 uA741
