* source NEWTEST
.EXTERNAL OUTPUT VD
.EXTERNAL OUTPUT VEE
.EXTERNAL OUTPUT VP
X_U1         N01118 N01089 N02302 N04237 N01077 0 0 N02302 LNA 
X_U2         N001680 N01067 0 N01828 N01067 N01904 VP VP N03300 N03279 0 N03094
+  VGA 
V_V1         VD 0 10Vdc
X_U3         N08985 0 VD VEE N01178 VD ADA4870 
C_C1         0 N01118  0.1u  TC=0,0 
V_V2         VEE 0 -10Vdc
C_C2         N01067 N04237  0.1u  TC=0,0 
V_V3         N01828 0 1Vdc
C_C3         0 N01904  0.1u  TC=0,0 
V_V5         N03094 0 5Vdc
R_R1         0 N03300  10k TC=0,0 
R_R2         0 N03279  10k TC=0,0 
C_C5         N001680 N01077  0.1u  TC=0,0 
V_V6         N02302 0 5Vdc
C_C6         0 N02302  0.1u  TC=0,0 
C_C7         N046980 N01089  0.1u  TC=0,0 
R_RIZ         N04237 N046980  280 TC=0,0 
C_C8         0 N01089  22p  TC=0,0 
R_R3         N01178 N08316  10 TC=0,0 
C_C9         0 N01067  0.1u  TC=0,0 
V_V7         N08985 0  AC 1
+SIN 0 1V 1Meg 0 0 0
X_SW1    N08316 0 N01089 0 SCHEMATIC1_SW1 
V_V8         VP 0 5Vdc

.subckt SCHEMATIC1_SW1 1 2 3 4  
S_SW1         3 4 1 2 VSWITCH1
RS_SW1         1 2 1G
.ends SCHEMATIC1_SW1
