* source OPERATIONAL_AMPLIFIER
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1         N00557 N00523 VCC VEE N00540 uA741
V_V1         VCC 0 15Vdc
V_V2         VEE 0 -15Vdc
R_R1         0 N00523  1k TC=0,0 
R_R2         N00523 N00540  9k TC=0,0 
V_V3         N00557 0  AC 1
+SIN 0 1 100 0 0 0
R_R3         0 N00540  1k TC=0,0 
