* source RECEIVER
.EXTERNAL OUTPUT VP
.EXTERNAL OUTPUT Ven
C_C2         N21544 N21488  0.1u  TC=0,0 
D_D8         N21732 N22036 D1N4148 
C_C8         0 N21430  22p  TC=0,0 
C_C3         0 N21994  0.1u  TC=0,0 
R_RIZ         N21488 N214480  280 TC=0,0 
C_C1         0 N21778  0.1u  TC=0,0 
R_R8         N22412 N22040  1k TC=0,0 
C_C6         0 N21884  0.1u  TC=0,0 
C_C9         0 N21544  0.1u  TC=0,0 
C_C7         N214480 N21430  0.1u  TC=0,0 
R_R10         0 N21874  10k TC=0,0 
V_Vsin1         N22036 0  AC 0
+SIN 0 1V 5meg 0 0 0
X_U2         N215940 N21544 0 N21900 N21544 N21994 VP VP N21874 N21910 0 N22000
+  VGA 
R_R7         N21816 N21430  1k TC=0,0 
V_VP1         N21560 0 5Vdc
D_D10         N21816 0 D1N4148 
D_D9         N21816 N22040 D1N4148 
V_V6         N21884 0 5Vdc
D_D7         N21732 N21816 D1N4148 
D_D12         0 N21816 D1N4148 
R_R6         N21732 N21560  1k TC=0,0 
V_VN1         N22412 0 -5Vdc
X_U1         N21778 N21430 N21884 N21488 N21710 0 0 N21884 LNA 
D_D11         N22036 N22040 D1N4148 
V_V3         N21900 0 1Vdc
V_V9         VP 0 5Vdc
V_V5         N22000 0 5Vdc
C_C5         N215940 N21710  0.1u  TC=0,0 
R_R9         0 N21910  10k TC=0,0 
X_U4         N24373 N24407 VP N24481 N24383 0 0 VEN LNA 
C_C13         0 N24373  0.1u  TC=0,0 
V_V13         VP 0 5Vdc
V_V14         VEN 0 2Vdc
V_Vsin2         N24407 0  AC 0
+SIN 1.5 10mV 5meg 0 0 0
R_R11         N24383 0  1k TC=0,0 
R_R12         N24481 0  1k TC=0,0 
