* source TRSWITCH
D_D1         N00066 N00133 D1N4148 
D_D2         N00066 N00147 D1N4148 
D_D3         N00147 N00140 D1N4148 
D_D4         N00133 N00140 D1N4148 
R_R1         N00133 0  1k TC=0,0 
V_Vsin         N00147 0  AC 0
+SIN 0 40V 5meg 0 0 0
V_VN         N03294 0 -5Vdc
V_VP         N00249 0 5Vdc
R_R2         N03294 N00140  1k TC=0,0 
R_R3         N00066 N00249  1k TC=0,0 
V_VN1         N05344 0 -5Vdc
D_D12         N05202 N05206 D1N4148 
V_VP1         N05006 0 5Vdc
D_D10         N05086 0 D1N4148 
R_R4         N05032 N05006  1k TC=0,0 
V_Vsin1         N07712 0  AC 0
+SIN 0 15V 5meg 0 0 0
R_R5         N05086 0  1k TC=0,0 
R_R6         N05344 N05206  1k TC=0,0 
D_D11         0 N05086 D1N4148 
D_D7         N05032 N05086 D1N4148 
D_D9         N05086 N05206 D1N4148 
D_D8         N05032 N05202 D1N4148 
D_D13         N07712 N05202 D1N4148 
D_D14         N05202 N07712 D1N4148 
