* source TX810ONLY
.EXTERNAL OUTPUT VD
.EXTERNAL OUTPUT VEE
.EXTERNAL OUTPUT VP
V_V7         N13713 0  AC 1
+SIN 0 2V 5Meg 0 0 0
R_R3         N13783 N13789  10 TC=0,0 
X_U3         N13713 N13773 VD VEE N13783 VD ADA4870 
V_V8         VP 0 1Vdc
V_V1         VD 0 10Vdc
V_V2         VEE 0 -10Vdc
R_R1         N15478 0  1k TC=0,0 
V_VN         N15656 0 -5Vdc
D_D1         N15424 N15478 D1N4148 
V_VP         N15398 0 5Vdc
R_R2         N15656 N15542  1k TC=0,0 
D_D4         N15478 N15542 D1N4148 
D_D2         N15424 N13789 D1N4148 
R_R5         N15424 N15398  1k TC=0,0 
D_D3         N13789 N15542 D1N4148 
D_D5         0 N15478 D1N4148 
D_D6         N15478 0 D1N4148 
V_VN1         N18246 0 -5Vdc
R_R7         N18020 N19127  1k TC=0,0 
V_VP1         N17940 0 5Vdc
D_D11         N18100 N18104 D1N4148 
R_R8         N18246 N18104  1k TC=0,0 
D_D8         N17966 N18100 D1N4148 
D_D7         N17966 N18020 D1N4148 
D_D12         0 N18020 D1N4148 
R_R6         N17966 N17940  1k TC=0,0 
D_D10         N18020 0 D1N4148 
D_D9         N18020 N18104 D1N4148 
V_V5         N19513 0 5Vdc
X_U1         N19373 N19127 N19441 N19175 N19351 0 0 N19441 LNA 
X_U2         N192350 N19211 0 N19457 N19211 N19507 VP VP N19431 N19467 0 N19513
+  VGA 
C_C9         0 N19211  0.1u  TC=0,0 
C_C7         N191450 N19127  0.1u  TC=0,0 
V_V6         N19441 0 5Vdc
C_C8         0 N19127  22p  TC=0,0 
C_C2         N19211 N19175  0.1u  TC=0,0 
C_C1         0 N19373  0.1u  TC=0,0 
R_RIZ         N19175 N191450  280 TC=0,0 
R_R9         0 N19467  10k TC=0,0 
C_C6         0 N19441  0.1u  TC=0,0 
R_R10         0 N19431  10k TC=0,0 
V_V3         N19457 0 1Vdc
C_C5         N192350 N19351  0.1u  TC=0,0 
C_C3         0 N19507  0.1u  TC=0,0 
V_Vsin1         N18100 0  AC 0
+SIN 0 1V 5meg 0 0 0
V_V9         VP 0 5Vdc
X_SW1    N21034 0 N21059 0 SCHEMATIC1_SW1 
R_R11         N21059 0  1k TC=0,0 
V_V12         N21034 0 5Vdc
V_V13         0 0 -5Vdc
X_SW2    N21619 0 N21623 0 SCHEMATIC1_SW2 
V_V14         N21619 0  
+SIN 0 5V 1Meg 0 0 0
R_R12         N21623 0  1k TC=0,0 
R_R13         N13773 N13783  1 TC=0,0 

.subckt SCHEMATIC1_SW1 1 2 3 4  
S_SW1         3 4 1 2 VSWITCH1
RS_SW1         1 2 1G
.ends SCHEMATIC1_SW1

.subckt SCHEMATIC1_SW2 1 2 3 4  
S_SW2         3 4 1 2 VSWITCH1
RS_SW2         1 2 1G
.ends SCHEMATIC1_SW2
