* source TRANSMITTER
.EXTERNAL OUTPUT VD
.EXTERNAL OUTPUT VEE
X_U3         N24714 N24744 VD VEE N24758 VD ADA4870 
R_R13         N24744 N24758  1.5K TC=0,0 
R_R3         N24758 0  10 TC=0,0 
V_V7         N24714 0  AC 1
+SIN 0 0.2V 5Meg 0 0 0
V_V1         VD 0 20Vdc
V_V2         VEE 0 -20Vdc
R_R14         0 N24744  1.5k TC=0,0 
