* source TXSWITCHTEST
.EXTERNAL OUTPUT VEE
.EXTERNAL OUTPUT VD
.EXTERNAL OUTPUT VN
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VB
V_V1         VCC 0 20Vdc
V_V8         VB 0 5Vdc
V_V2         VEE 0 -20Vdc
R_R15         N27903 0  1K TC=0,0 
X_U4         N27745 N27745 N27745 0 N30378 N27198 N27198 N27198 N27198 N27198
+  N27198 N27198 N27903 N29313 N29326 N29394 N28078 N29330 N29398 N29334 VB VD VN
+  VB TX810 
V_V9         VN 0 -10Vdc
V_V10         VD 0 10Vdc
V_V11         N27745 0 5Vdc
R_R16         N28078 0  10k TC=0,0 
R_R17         0 N27198  1M TC=0,0 
R_R18         N29330 0  10k TC=0,0 
R_R19         N29313 0  10k TC=0,0 
R_R20         N29326 0  10k TC=0,0 
R_R21         N29334 0  10k TC=0,0 
R_R22         N29398 0  10k TC=0,0 
R_R23         N29394 0  10k TC=0,0 
R_R14         0 N30358  1.5k TC=0,0 
R_R3         N30366 N30378  10 TC=0,0 
V_V7         N30330 0  AC 1
+SIN 0 5V 5Meg 0 0 0
X_U3         N30330 N30358 VCC VEE N30366 VCC ADA4870 
R_R13         N30358 N30366  1.5K TC=0,0 
