* source OPAMP
V_VP         N01881 0 5Vdc
V_VN         0 N02000 -5Vdc
V_VD         N02027 0 3.3Vdc
V_V1         N03461 0  AC 1
+SIN 0 0.25 5Meg 0 0 0
R_R1         N02047 0  400 TC=0,0 
X_U1         N02111 N02111 N02111 0 N03199 0 0 0 0 0 0 0 N02047 N02641 N02641
+  N02641 N02641 N02641 N02641 N02641 0 N02027 N02000 N01881 TX810 
V_VD1         N02120 0 3.3Vdc
R_R2         N02641 0  10k TC=0,0 
R_R3         N03461 N03199  10 TC=0,0 
R_R4         N02120 N02111  10 TC=0,0 
